chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[F-:2].[F:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24],26.21001870751705
[Cl:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[H:21].[H-:2]>>[Cl-:1].[H:2][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[H:21],11.572779862042267
[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23].[F-:2]>>[Cl-:1].[F:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23],11.567055890738215
[Cl-:2].[Cl:1][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[H:21]>>[Cl-:1].[Cl:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[H:21],26.981589535037408
[Br:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Br-:1].[H:2][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24],6.4057479446011625
[Br:1][C@:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([H:11])[N:21]([H:22])[H:23].[H-:2]>>[Br-:1].[C:4](=[C:5](/[H:11])[N:21]([H:22])[H:23])(\[H:31])[C:41]#[N:42].[H:2][H:3],8.150473964079236
[Cl-:2].[F:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22]>>[Cl:2][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22].[F-:1],28.33941737774859
[Cl:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[F-:2]>>[Cl-:1].[F:2][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21],12.956393646240551
[Br:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24],8.183656840467531
[Br:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[F-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[C:21]#[N:22])(\[C:31]#[N:32])[H:41].[F:2][H:3],3.018246896195925
[F:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23].[H-:2]>>[F-:1].[H:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23],15.123578334880154
[Br:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([C:11]#[N:12])[H:21].[F-:2]>>[Br-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([C:11]#[N:12])[H:21],6.6775729116464495
[Cl:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([N+:11]([O-:12])[O:13])[H:21].[H-:2]>>[Cl-:1].[H:2][C:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([N+:11]([O-:12])[O:13])[H:21],0.585779025995468
[F:1][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([C:31]([H:32])([H:33])[H:34])[H:41].[F-:1].[H:2][H:3],3.7638991524804553
[Br:1][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Br-:1].[H:2][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],26.812816053856896
[Cl:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]#[N:12])[N:21]([H:22])[H:23].[H-:2]>>[C:4](=[C:5]([C:11]#[N:12])[N:21]([H:22])[H:23])([C:31]#[N:32])[C:41]#[N:42].[Cl-:1].[H:2][H:3],2.453598415446161
[Cl-:2].[Cl:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22]>>[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([C:31]#[N:32])[N:41]([H:42])[H:43].[Cl-:1].[Cl:2][H:3],25.189727306788143
[F-:2].[F:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22],13.377662083154636
[Cl:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Cl-:1].[H:2][C:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24],6.0950920616196544
[Cl-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[H:41])([C:11]#[N:12])[N:21]([H:22])[H:23]>>[C:4](=[C:5]([C:11]#[N:12])[N:21]([H:22])[H:23])([H:31])[H:41].[Cl:2][H:3].[F-:1],40.51798055553622
[Br:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]#[N:22].[H-:2]>>[Br-:1].[C:4](=[C:5](/[N+:11]([O-:12])[O:13])[C:21]#[N:22])(\[C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43].[H:2][H:3],3.206934485736434
